US09029538B2
1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinazolin-4-yloxy)-phenyl]-amide.
This compound was synthesized using 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 4-(6,7-dimethoxy-quinazolin-4-yloxy)-phenylamine by the procedure for example 134. mp=238-241° C.; LCMS m/z=558 (M+H); 1H NMR (CDCl3): δ 10.82 (s, 1H), 8.63 (d, 2H J=6.5 Hz), 7.76 (d, 2H, J=9.0 Hz), 7.55 (s, 1H), 7.32 (s, 1H), 7.23 (d, 2H, J=8.9 Hz), 4.07 (s, 7H), 4.03 (q, 3H, J=7.2 Hz), 1.59 (s, 1H), 1.49 (s, 1H), 1.46 (t, 3H, 7.2 Hz), 1.20 (t, 1H, J=7.0 Hz), 1.03 (t, 1H, J=7.3 Hz).

reactant | 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C13H11FN2O4
reactant | 4-(6,7-dimethoxy-quinazolin-4-yloxy)-phenylamine | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)N | C16H15N3O3
product | 1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinazolin-4-yloxy)-phenyl]-amide | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O | C29H24FN5O6
